* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.010244609492805114
Fd1_1 0 s1 V1 0.5122304746402557
Gr1_1_1 0 s1 x1_a1 0 4953919150603.739
Gr2_1_1 0 s1 x2_a1 0 -3158398899.9302816
Gr3_1_1 0 s1 x3_a1 0 1988486636607.4663
Gr4_re_1_1 0 s1 x4_re_a1 0 -168087667183.8088
Gr4_im_1_1 0 s1 x4_im_a1 0 38978522207.10112
Gr5_re_1_1 0 s1 x5_re_a1 0 -186260488090514.6
Gr5_im_1_1 0 s1 x5_im_a1 0 -288457180278409.0
Gr6_re_1_1 0 s1 x6_re_a1 0 -1255824899483.6948
Gr6_im_1_1 0 s1 x6_im_a1 0 -8175954735119.1875
Gr7_re_1_1 0 s1 x7_re_a1 0 -1017295761333698.0
Gr7_im_1_1 0 s1 x7_im_a1 0 2704887560716579.0
Gr8_re_1_1 0 s1 x8_re_a1 0 -4.26645955474048e+16
Gr8_im_1_1 0 s1 x8_im_a1 0 761171079599618.8
Gr9_re_1_1 0 s1 x9_re_a1 0 1.069140185526955e+16
Gr9_im_1_1 0 s1 x9_im_a1 0 2.050294152679156e+16
Gr10_re_1_1 0 s1 x10_re_a1 0 2.4568618371892314e+17
Gr10_im_1_1 0 s1 x10_im_a1 0 -3.531131939963403e+17
Gr11_re_1_1 0 s1 x11_re_a1 0 1566760701229155.8
Gr11_im_1_1 0 s1 x11_im_a1 0 -8368639931575279.0
Gr12_1_1 0 s1 x12_a1 0 -2.3425720114111523e+17
Gr13_1_1 0 s1 x13_a1 0 -3.027244476767814e+17
Gr14_re_1_1 0 s1 x14_re_a1 0 -8077032208956397.0
Gr14_im_1_1 0 s1 x14_im_a1 0 4561361741220369.0
Gr15_1_1 0 s1 x15_a1 0 8089278258922877.0
Gr16_1_1 0 s1 x16_a1 0 4.100830453753123e+16
Gr17_re_1_1 0 s1 x17_re_a1 0 -2.1880918398394856e+16
Gr17_im_1_1 0 s1 x17_im_a1 0 3.237533773694969e+16
Gr18_re_1_1 0 s1 x18_re_a1 0 1148741721878576.5
Gr18_im_1_1 0 s1 x18_im_a1 0 2287837562411529.0
Gr19_1_1 0 s1 x19_a1 0 3.782861617132494e+16
Gr20_re_1_1 0 s1 x20_re_a1 0 2.6421206622488188e+16
Gr20_im_1_1 0 s1 x20_im_a1 0 636191817273573.2
Gr21_1_1 0 s1 x21_a1 0 1.5605128997537876e+16
Gr22_re_1_1 0 s1 x22_re_a1 0 4289223714780629.5
Gr22_im_1_1 0 s1 x22_im_a1 0 1.746506715591679e+16
Gr23_1_1 0 s1 x23_a1 0 2496328900007493.0
Gd1_2 0 s1 p2 0 -3.841442207447245e-05
Fd1_2 0 s1 V2 -0.0019207211037236224
Gr1_1_2 0 s1 x1_a2 0 18943265945.59674
Gr2_1_2 0 s1 x2_a2 0 19781072.391777173
Gr3_1_2 0 s1 x3_a2 0 64362402878.607025
Gr4_re_1_2 0 s1 x4_re_a2 0 -5946786427.151119
Gr4_im_1_2 0 s1 x4_im_a2 0 -12827895138.174137
Gr5_re_1_2 0 s1 x5_re_a2 0 -1368641986186.81
Gr5_im_1_2 0 s1 x5_im_a2 0 -19432465228473.906
Gr6_re_1_2 0 s1 x6_re_a2 0 523529802749.42065
Gr6_im_1_2 0 s1 x6_im_a2 0 -398965515031.7699
Gr7_re_1_2 0 s1 x7_re_a2 0 -226744337753976.84
Gr7_im_1_2 0 s1 x7_im_a2 0 108043098394790.2
Gr8_re_1_2 0 s1 x8_re_a2 0 -3323146220628652.0
Gr8_im_1_2 0 s1 x8_im_a2 0 -1838210414460532.8
Gr9_re_1_2 0 s1 x9_re_a2 0 -379113113776494.6
Gr9_im_1_2 0 s1 x9_im_a2 0 2306403719427031.0
Gr10_re_1_2 0 s1 x10_re_a2 0 3.5576877482858384e+16
Gr10_im_1_2 0 s1 x10_im_a2 0 -3.631145076269678e+16
Gr11_re_1_2 0 s1 x11_re_a2 0 955911525019970.2
Gr11_im_1_2 0 s1 x11_im_a2 0 -990129439586419.4
Gr12_1_2 0 s1 x12_a2 0 -4.305224668075439e+16
Gr13_1_2 0 s1 x13_a2 0 -4.695562918495531e+16
Gr14_re_1_2 0 s1 x14_re_a2 0 -2133953800413826.0
Gr14_im_1_2 0 s1 x14_im_a2 0 117994505679727.14
Gr15_1_2 0 s1 x15_a2 0 7113127634702978.0
Gr16_1_2 0 s1 x16_a2 0 1.1420317754766594e+16
Gr17_re_1_2 0 s1 x17_re_a2 0 -7540839665502947.0
Gr17_im_1_2 0 s1 x17_im_a2 0 6385681686983017.0
Gr18_re_1_2 0 s1 x18_re_a2 0 1572780807152661.0
Gr18_im_1_2 0 s1 x18_im_a2 0 593807770925870.9
Gr19_1_2 0 s1 x19_a2 0 7481071675216794.0
Gr20_re_1_2 0 s1 x20_re_a2 0 5384562526245845.0
Gr20_im_1_2 0 s1 x20_im_a2 0 263118701597911.88
Gr21_1_2 0 s1 x21_a2 0 2702643573043624.0
Gr22_re_1_2 0 s1 x22_re_a2 0 659072816645783.8
Gr22_im_1_2 0 s1 x22_im_a2 0 5388649565225553.0
Gr23_1_2 0 s1 x23_a2 0 201537487290068.1
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.8055349088144472e-14
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 1.3423154085133985e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 2.52178394656533e-11
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 1.5797398241227735e-10
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 18767775093.651196
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -18767775093.651196
Rp4_im_im_a1 0 x4_im_a1 1.5797398241227735e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 6.119359543666775e-11
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 10685028936.287853
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -10685028936.287853
Rp5_im_im_a1 0 x5_im_a1 6.119359543666775e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.7986110800458453e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 13979976784.150835
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -13979976784.150835
Rp6_im_im_a1 0 x6_im_a1 1.7986110800458453e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.287294616280852e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 10094140165.177664
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -10094140165.177664
Rp7_im_im_a1 0 x7_im_a1 1.287294616280852e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 1.0611556024130166e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 7054645181.264583
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -7054645181.264583
Rp8_im_im_a1 0 x8_im_a1 1.0611556024130166e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 1.4065147559640943e-10
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 7555402656.564148
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -7555402656.564148
Rp9_im_im_a1 0 x9_im_a1 1.4065147559640943e-10
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 1.2837618522275094e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 1626944951.327316
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -1626944951.327316
Rp10_im_im_a1 0 x10_im_a1 1.2837618522275094e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 3.329197079666697e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 4245341248.5010123
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -4245341248.5010123
Rp11_im_im_a1 0 x11_im_a1 3.329197079666697e-10
Cx12_a1 x12_a1 0 1.0
Gx12_a1 0 x12_a1 p1 0 0.07071067811865475
Fx12_a1 0 x12_a1 V1 3.5355339059327378
Rp12_a1 0 x12_a1 1.774931090390094e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 2.486800112645268e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 2.0854326750963615e-09
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 2075032419.7847686
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -2075032419.7847686
Rp14_im_im_a1 0 x14_im_a1 2.0854326750963615e-09
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 4.5472029178370566e-10
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 5.348956226505701e-10
Cx17_re_a1 x17_re_a1 0 1.0
Gx17_re_a1 0 x17_re_a1 p1 0 0.1414213562373095
Fx17_re_a1 0 x17_re_a1 V1 7.0710678118654755
Rp17_re_re_a1 0 x17_re_a1 1.8638641117433502e-08
Gp17_re_im_a1 0 x17_re_a1 x17_im_a1 0 865268350.4800653
Cx17_im_a1 x17_im_a1 0 1.0
Gp17_im_re_a1 0 x17_im_a1 x17_re_a1 0 -865268350.4800653
Rp17_im_im_a1 0 x17_im_a1 1.8638641117433502e-08
Cx18_re_a1 x18_re_a1 0 1.0
Gx18_re_a1 0 x18_re_a1 p1 0 0.1414213562373095
Fx18_re_a1 0 x18_re_a1 V1 7.0710678118654755
Rp18_re_re_a1 0 x18_re_a1 2.360419503108212e-08
Gp18_re_im_a1 0 x18_re_a1 x18_im_a1 0 574470381.2139174
Cx18_im_a1 x18_im_a1 0 1.0
Gp18_im_re_a1 0 x18_im_a1 x18_re_a1 0 -574470381.2139174
Rp18_im_im_a1 0 x18_im_a1 2.360419503108212e-08
Cx19_a1 x19_a1 0 1.0
Gx19_a1 0 x19_a1 p1 0 0.07071067811865475
Fx19_a1 0 x19_a1 V1 3.5355339059327378
Rp19_a1 0 x19_a1 9.244782412554334e-10
Cx20_re_a1 x20_re_a1 0 1.0
Gx20_re_a1 0 x20_re_a1 p1 0 0.1414213562373095
Fx20_re_a1 0 x20_re_a1 V1 7.0710678118654755
Rp20_re_re_a1 0 x20_re_a1 1.8407694116681472e-08
Gp20_re_im_a1 0 x20_re_a1 x20_im_a1 0 252027529.37913004
Cx20_im_a1 x20_im_a1 0 1.0
Gp20_im_re_a1 0 x20_im_a1 x20_re_a1 0 -252027529.37913004
Rp20_im_im_a1 0 x20_im_a1 1.8407694116681472e-08
Cx21_a1 x21_a1 0 1.0
Gx21_a1 0 x21_a1 p1 0 0.07071067811865475
Fx21_a1 0 x21_a1 V1 3.5355339059327378
Rp21_a1 0 x21_a1 1.4405717724656845e-09
Cx22_re_a1 x22_re_a1 0 1.0
Gx22_re_a1 0 x22_re_a1 p1 0 0.1414213562373095
Fx22_re_a1 0 x22_re_a1 V1 7.0710678118654755
Rp22_re_re_a1 0 x22_re_a1 1.885888135527691e-09
Gp22_re_im_a1 0 x22_re_a1 x22_im_a1 0 83367464.75098863
Cx22_im_a1 x22_im_a1 0 1.0
Gp22_im_re_a1 0 x22_im_a1 x22_re_a1 0 -83367464.75098863
Rp22_im_im_a1 0 x22_im_a1 1.885888135527691e-09
Cx23_a1 x23_a1 0 1.0
Gx23_a1 0 x23_a1 p1 0 0.07071067811865475
Fx23_a1 0 x23_a1 V1 3.5355339059327378
Rp23_a1 0 x23_a1 2.862913817065024e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -3.841442207447245e-05
Fd2_1 0 s2 V1 -0.0019207211037236224
Gr1_2_1 0 s2 x1_a1 0 18943265873.09168
Gr2_2_1 0 s2 x2_a1 0 19781089.83337792
Gr3_2_1 0 s2 x3_a1 0 64362398689.08976
Gr4_re_2_1 0 s2 x4_re_a1 0 -5946786146.218677
Gr4_im_2_1 0 s2 x4_im_a1 0 -12827895974.833864
Gr5_re_2_1 0 s2 x5_re_a1 0 -1368641267610.558
Gr5_im_2_1 0 s2 x5_im_a1 0 -19432465460989.637
Gr6_re_2_1 0 s2 x6_re_a1 0 523529847632.3981
Gr6_im_2_1 0 s2 x6_im_a1 0 -398965511067.76953
Gr7_re_2_1 0 s2 x7_re_a1 0 -226744350497021.4
Gr7_im_2_1 0 s2 x7_im_a1 0 108043095059046.53
Gr8_re_2_1 0 s2 x8_re_a1 0 -3323146287934809.0
Gr8_im_2_1 0 s2 x8_im_a1 0 -1838210555861030.2
Gr9_re_2_1 0 s2 x9_re_a1 0 -379113187333284.75
Gr9_im_2_1 0 s2 x9_im_a1 0 2306403805195727.5
Gr10_re_2_1 0 s2 x10_re_a1 0 3.5576879089284536e+16
Gr10_im_2_1 0 s2 x10_im_a1 0 -3.631145196828267e+16
Gr11_re_2_1 0 s2 x11_re_a1 0 955911589245030.2
Gr11_im_2_1 0 s2 x11_im_a1 0 -990129478070527.2
Gr12_2_1 0 s2 x12_a1 0 -4.305224888669174e+16
Gr13_2_1 0 s2 x13_a1 0 -4.69556313946157e+16
Gr14_re_2_1 0 s2 x14_re_a1 0 -2133953924462144.2
Gr14_im_2_1 0 s2 x14_im_a1 0 117994495568809.0
Gr15_2_1 0 s2 x15_a1 0 7113128126493995.0
Gr16_2_1 0 s2 x16_a1 0 1.1420318427849982e+16
Gr17_re_2_1 0 s2 x17_re_a1 0 -7540840131081284.0
Gr17_im_2_1 0 s2 x17_im_a1 0 6385682024053513.0
Gr18_re_2_1 0 s2 x18_re_a1 0 1572780918343992.2
Gr18_im_2_1 0 s2 x18_im_a1 0 593807805275986.2
Gr19_2_1 0 s2 x19_a1 0 7481072070571201.0
Gr20_re_2_1 0 s2 x20_re_a1 0 5384562814028038.0
Gr20_im_2_1 0 s2 x20_im_a1 0 263118718373853.66
Gr21_2_1 0 s2 x21_a1 0 2702643707834453.0
Gr22_re_2_1 0 s2 x22_re_a1 0 659072847513124.5
Gr22_im_2_1 0 s2 x22_im_a1 0 5388649890477104.0
Gr23_2_1 0 s2 x23_a1 0 201537491825992.4
Gd2_2 0 s2 p2 0 0.010246791931467903
Fd2_2 0 s2 V2 0.5123395965733951
Gr1_2_2 0 s2 x1_a2 0 4952873645503.716
Gr2_2_2 0 s2 x2_a2 0 -3171152288.594341
Gr3_2_2 0 s2 x3_a2 0 1984874777268.6323
Gr4_re_2_2 0 s2 x4_re_a2 0 -167627675004.5395
Gr4_im_2_2 0 s2 x4_im_a2 0 40037897960.61089
Gr5_re_2_2 0 s2 x5_re_a2 0 -186476451290677.53
Gr5_im_2_2 0 s2 x5_im_a2 0 -286635285422438.3
Gr6_re_2_2 0 s2 x6_re_a2 0 -1322754277827.4556
Gr6_im_2_2 0 s2 x6_im_a2 0 -8142605773565.108
Gr7_re_2_2 0 s2 x7_re_a2 0 -991416610990996.2
Gr7_im_2_2 0 s2 x7_im_a2 0 2696920702796145.0
Gr8_re_2_2 0 s2 x8_re_a2 0 -4.234070341161875e+16
Gr8_im_2_2 0 s2 x8_im_a2 0 988826544376584.6
Gr9_re_2_2 0 s2 x9_re_a2 0 1.0759015246404732e+16
Gr9_im_2_2 0 s2 x9_im_a2 0 2.026003368880165e+16
Gr10_re_2_2 0 s2 x10_re_a2 0 2.4180560531266714e+17
Gr10_im_2_2 0 s2 x10_im_a2 0 -3.493553374182087e+17
Gr11_re_2_2 0 s2 x11_re_a2 0 1452627908538067.5
Gr11_im_2_2 0 s2 x11_im_a2 0 -8263611218605148.0
Gr12_2_2 0 s2 x12_a2 0 -2.2943810306177094e+17
Gr13_2_2 0 s2 x13_a2 0 -2.975607972646249e+17
Gr14_re_2_2 0 s2 x14_re_a2 0 -7831241278937645.0
Gr14_im_2_2 0 s2 x14_im_a2 0 4555814558359211.0
Gr15_2_2 0 s2 x15_a2 0 7233085333113049.0
Gr16_2_2 0 s2 x16_a2 0 3.968853652539706e+16
Gr17_re_2_2 0 s2 x17_re_a2 0 -2.0999336421980416e+16
Gr17_im_2_2 0 s2 x17_im_a2 0 3.165588695912735e+16
Gr18_re_2_2 0 s2 x18_re_a2 0 958190968584620.1
Gr18_im_2_2 0 s2 x18_im_a2 0 2219520448482491.5
Gr19_2_2 0 s2 x19_a2 0 3.6985550429628456e+16
Gr20_re_2_2 0 s2 x20_re_a2 0 2.581283371138361e+16
Gr20_im_2_2 0 s2 x20_im_a2 0 605181946615544.9
Gr21_2_2 0 s2 x21_a2 0 1.5304354128540656e+16
Gr22_re_2_2 0 s2 x22_re_a2 0 4216822562646591.0
Gr22_im_2_2 0 s2 x22_im_a2 0 1.68386636635406e+16
Gr23_2_2 0 s2 x23_a2 0 2476507308980633.0
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.8055349088144472e-14
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 1.3423154085133985e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 2.52178394656533e-11
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 1.5797398241227735e-10
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 18767775093.651196
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -18767775093.651196
Rp4_im_im_a2 0 x4_im_a2 1.5797398241227735e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 6.119359543666775e-11
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 10685028936.287853
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -10685028936.287853
Rp5_im_im_a2 0 x5_im_a2 6.119359543666775e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.7986110800458453e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 13979976784.150835
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -13979976784.150835
Rp6_im_im_a2 0 x6_im_a2 1.7986110800458453e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.287294616280852e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 10094140165.177664
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -10094140165.177664
Rp7_im_im_a2 0 x7_im_a2 1.287294616280852e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 1.0611556024130166e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 7054645181.264583
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -7054645181.264583
Rp8_im_im_a2 0 x8_im_a2 1.0611556024130166e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 1.4065147559640943e-10
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 7555402656.564148
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -7555402656.564148
Rp9_im_im_a2 0 x9_im_a2 1.4065147559640943e-10
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 1.2837618522275094e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 1626944951.327316
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -1626944951.327316
Rp10_im_im_a2 0 x10_im_a2 1.2837618522275094e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 3.329197079666697e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 4245341248.5010123
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -4245341248.5010123
Rp11_im_im_a2 0 x11_im_a2 3.329197079666697e-10
Cx12_a2 x12_a2 0 1.0
Gx12_a2 0 x12_a2 p2 0 0.07071067811865475
Fx12_a2 0 x12_a2 V2 3.5355339059327378
Rp12_a2 0 x12_a2 1.774931090390094e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 2.486800112645268e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 2.0854326750963615e-09
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 2075032419.7847686
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -2075032419.7847686
Rp14_im_im_a2 0 x14_im_a2 2.0854326750963615e-09
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 4.5472029178370566e-10
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 5.348956226505701e-10
Cx17_re_a2 x17_re_a2 0 1.0
Gx17_re_a2 0 x17_re_a2 p2 0 0.1414213562373095
Fx17_re_a2 0 x17_re_a2 V2 7.0710678118654755
Rp17_re_re_a2 0 x17_re_a2 1.8638641117433502e-08
Gp17_re_im_a2 0 x17_re_a2 x17_im_a2 0 865268350.4800653
Cx17_im_a2 x17_im_a2 0 1.0
Gp17_im_re_a2 0 x17_im_a2 x17_re_a2 0 -865268350.4800653
Rp17_im_im_a2 0 x17_im_a2 1.8638641117433502e-08
Cx18_re_a2 x18_re_a2 0 1.0
Gx18_re_a2 0 x18_re_a2 p2 0 0.1414213562373095
Fx18_re_a2 0 x18_re_a2 V2 7.0710678118654755
Rp18_re_re_a2 0 x18_re_a2 2.360419503108212e-08
Gp18_re_im_a2 0 x18_re_a2 x18_im_a2 0 574470381.2139174
Cx18_im_a2 x18_im_a2 0 1.0
Gp18_im_re_a2 0 x18_im_a2 x18_re_a2 0 -574470381.2139174
Rp18_im_im_a2 0 x18_im_a2 2.360419503108212e-08
Cx19_a2 x19_a2 0 1.0
Gx19_a2 0 x19_a2 p2 0 0.07071067811865475
Fx19_a2 0 x19_a2 V2 3.5355339059327378
Rp19_a2 0 x19_a2 9.244782412554334e-10
Cx20_re_a2 x20_re_a2 0 1.0
Gx20_re_a2 0 x20_re_a2 p2 0 0.1414213562373095
Fx20_re_a2 0 x20_re_a2 V2 7.0710678118654755
Rp20_re_re_a2 0 x20_re_a2 1.8407694116681472e-08
Gp20_re_im_a2 0 x20_re_a2 x20_im_a2 0 252027529.37913004
Cx20_im_a2 x20_im_a2 0 1.0
Gp20_im_re_a2 0 x20_im_a2 x20_re_a2 0 -252027529.37913004
Rp20_im_im_a2 0 x20_im_a2 1.8407694116681472e-08
Cx21_a2 x21_a2 0 1.0
Gx21_a2 0 x21_a2 p2 0 0.07071067811865475
Fx21_a2 0 x21_a2 V2 3.5355339059327378
Rp21_a2 0 x21_a2 1.4405717724656845e-09
Cx22_re_a2 x22_re_a2 0 1.0
Gx22_re_a2 0 x22_re_a2 p2 0 0.1414213562373095
Fx22_re_a2 0 x22_re_a2 V2 7.0710678118654755
Rp22_re_re_a2 0 x22_re_a2 1.885888135527691e-09
Gp22_re_im_a2 0 x22_re_a2 x22_im_a2 0 83367464.75098863
Cx22_im_a2 x22_im_a2 0 1.0
Gp22_im_re_a2 0 x22_im_a2 x22_re_a2 0 -83367464.75098863
Rp22_im_im_a2 0 x22_im_a2 1.885888135527691e-09
Cx23_a2 x23_a2 0 1.0
Gx23_a2 0 x23_a2 p2 0 0.07071067811865475
Fx23_a2 0 x23_a2 V2 3.5355339059327378
Rp23_a2 0 x23_a2 2.862913817065024e-09
.ENDS s_equivalent
